US07728030B2
3-Nitro-1-phenoxy-butan-2-ol (68c)
2-Phenoxyacetaldehyde (1.36 g, 10 mmol) was added to a suspension of anhydrous magnesium sulfate (2.65 g, 22 mmol) in nitroethane (7.0 mL) under an argon atmosphere. After 5 min a solution of 2,8,9-triisopropyl-2,5,8,9-tetraaza-1-phosphabicyclo[3,3,3]undecane (0.30 g, 1.0 mmol) in nitromethane (3.0 mL) was added. The mixture was vigorously stirred for 5 days at r.t., filtered through celite and concentrated. Purification by column chromatography (SiO2, dichloromethane/t-butyl methyl ether) gave the subtitle compound as an oil (1.7 g, 81%).

reactant | 2-Phenoxyacetaldehyde | 10 mmol, 1.36 g | O(C1=CC=CC=C1)CC=O | C8H8O2
reactant | magnesium sulfate | 22 mmol, 2.65 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 2,8,9-triisopropyl-2,5,8,9-tetraaza-1-phosphabicyclo[3,3,3]undecane | 1.0 mmol, 0.30 g | C(C)(C)N1P2N(CCN(CC1)CCN2C(C)C)C(C)C | C15H33N4P
reactant | nitroethane | 7.0 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | nitromethane | 3.0 mL | [N+](=O)([O-])C | CH3NO2
product | 3-Nitro-1-phenoxy-butan-2-ol | 1.7 g, 81% | [N+](=O)([O-])C(C(COC1=CC=CC=C1)O)C | C10H13NO4
